.subckt nand3 in1 in2 in3 out Vdd 
.param NandP=2
.param NandN=3
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n

M1 out in1 x2 0 nmos W={Wmin*NandN} L={Lmin}
M2 x2 in2 x3 0 nmos W={Wmin*NandN} L={Lmin}
M3 x3 in3 0 0 nmos W={Wmin*NandN} L={Lmin}
M4 out in1 n2 0 pmos W={Wmin*NandP} L={Lmin}  
M5 x2 in2 x3 0 pmos W={Wmin*NandP} L={Lmin}
M6 x3 in3 0 0 pmos W={Wmin*NandP} L={Lmin}
.ends

